US08217028B2
Ethyl glycinate hydrochloride (698 mg) and 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indole-3-carbaldehyde (D61) (396 mg) were added to a solution of NaOH (200 mg) in ethanol (10 mL). After stirring for 0.5 hour, ethanol was evaporated off and then Dichloromethane (40 mL) containing AcOH (0.5 mL) was added to the residue. NaBH(OAc)3 (1.06 g) was added to the above mixture. The reaction mixture was stirred at room temperature overnight and then terminated by saturated NaHCO3 solution. The organic layer was separated and washed with water and brine. After the solvent was evaporated off the residue was purified by Mass Directed AutoPrep to afford ethyl N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]methyl}glycinate (D77) (283 mg) as a yellow solid. δH (CDCl3, 400 MHz): 1.29 (3H, t), 1.46 (6H, d), 1.84 (1H, br s), 3.48 (2H, s), 3.74 (2H, s), 4.03 (3H, s), 4.21 (2H, q), 4.71-4.74 (1H, m), 7.03 (1H, s), 7.07 (1H, d), 7.22 (1H, t), 7.58 (1H, dd), 7.89 (1H, dd), 8.08 (1H, dd), 8.26 (1H, d). MS (ES): C25H27ClN4O4 requires 482; found 380.2 (M—NHCH2COOEt+).

reactant | Ethyl glycinate hydrochloride | 698 mg | Cl.NCC(=O)OCC
reactant | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indole-3-carbaldehyde | 396 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)C=O | C21H18ClN3O3
reactant | NaOH | 200 mg | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]methyl}glycinate | 283 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)CNCC(=O)OCC | C25H27ClN4O4
